US06780875B2
3-(4-Isopropyl-piperazin-1-ylmethyl)-2-phenyl-quinoline-4-carboxylic acid ((S)-1-cyclohexyl-ethyl)-amide dihydrochloride
2.3 g (5.0 mmol) of crude 3-(4-isopropyl-piperazin-1-ylmethyl)-2-phenyl-quinoline-4-carboxylic acid dihydrochloride (compound of Description 6) were dissolved in 200 ml of a 1:1 mixture of CH2Cl2/CH3CN; 2.0 ml (15 mmol) of triethylamine (TEA) and 2.5 g (6.5 mmol) of O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluroniumhexafluorophosphate (HBTU) were added and the reaction mixture was cooled at 0° C. 0.74 ml (5 mmol) of (S)-1-cyclohexyl-ethylamine, dissolved in 10 ml of dry CH2Cl2, were added dropwise and the reaction mixture was stirred at room temperature for 24 h. The solvent was evaporated in vacuo to dryness and the residue was taken up with EtOAc and washed with H2O, 1 N NaOH and brine, dried over Na2SO4 and evaporated to dryness to yield a crude material which was purified by flash column chromatography on 230-400 mesh silica gel, utilising a mixture of CH2Cl2/MeOH 95:5 containing 0.5% NH4OH (28%). The residue was dissolved in acetone and acidified with HCl/Et2O; the precipitate so formed was recovered by suction filtration to yield 0.9 g of the title compound as a yellow solid.

reactant | 3-(4-isopropyl-piperazin-1-ylmethyl)-2-phenyl-quinoline-4-carboxylic acid dihydrochloride | 5.0 mmol, 2.3 g | Cl.Cl.C(C)(C)N1CCN(CC1)CC=1C(=NC2=CC=CC=C2C1C(=O)O)C1=CC=CC=C1
reactant | triethylamine | 15 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluroniumhexafluorophosphate | 6.5 mmol, 2.5 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | (S)-1-cyclohexyl-ethylamine | 5 mmol, 0.74 ml | C1(CCCCC1)[C@H](C)N | C8H17N
solvent | CH2Cl2 CH3CN | C(Cl)Cl.CC#N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-Isopropyl-piperazin-1-ylmethyl)-2-phenyl-quinoline-4-carboxylic acid ((S)-1-cyclohexyl-ethyl)-amide dihydrochloride | 0.9 g | Cl.Cl.C1(CCCCC1)[C@H](C)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)CN1CCN(CC1)C(C)C | InChI=1S/C32H42N4O.2ClH/c1-23(2)36-20-18-35(19-21-36)22-28-30(32(37)33-24(3)25-12-6-4-7-13-25)27-16-10-11-17-29(27)34-31(28)26-14-8-5-9-15-26;;/h5,8-11,14-17,23-25H,4,6-7,12-13,18-22H2,1-3H3,(H,33,37);2*1H/t24-;;/m0../s1
